Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Major Surgical or Invasive Procedure:
None performed 

attach
 
Pertinent Results:
RELEVANT LABS
=========================

___ 06:52AM BLOOD WBC-8.0 RBC-2.77* Hgb-7.7* Hct-23.9* 
MCV-86 MCH-27.8 MCHC-32.2 RDW-17.7* RDWSD-56.4* Plt ___
___ 06:13AM BLOOD WBC-10.2* RBC-2.20* Hgb-5.9* Hct-19.5* 
MCV-89 MCH-26.8 MCHC-30.3* RDW-17.6* RDWSD-56.6* Plt ___
___ 03:45PM BLOOD WBC-11.1* RBC-2.70* Hgb-7.5* Hct-23.4* 
MCV-87 MCH-27.8 MCHC-32.1 RDW-17.0* RDWSD-53.3* Plt ___
___ 06:52AM BLOOD Neuts-87.5* Lymphs-4.4* Monos-5.9 Eos-1.3 
Baso-0.1 Im ___ AbsNeut-6.98* AbsLymp-0.35* AbsMono-0.47 
AbsEos-0.10 AbsBaso-0.01
___ 09:25AM BLOOD Glucose-182* UreaN-124* Creat-5.6* Na-139 
K-4.6 Cl-102 HCO3-19* AnGap-18
___ 02:45PM BLOOD Glucose-251* UreaN-130* Creat-6.4* Na-135 
K-4.2 Cl-92* HCO3-25 AnGap-18

MICROBIOLOGY
===========================
___ 5:55 pm MRSA SCREEN      Source: Nasal swab. 

                            **FINAL REPORT ___

   MRSA SCREEN (Final ___: 
      POSITIVE FOR METHICILLIN RESISTANT STAPH AUREUS. 
__________________________________________________________
___ 7:17 am BLOOD CULTURE      2 OF 2. 

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH. 
__________________________________________________________
___ 12:10 am BLOOD CULTURE

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH. 
__________________________________________________________
___ 12:10 am BLOOD CULTURE      Source: Venipuncture. 

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH. 
__________________________________________________________
___ 4:00 pm BLOOD CULTURE      2 OF 2. 

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH. 
__________________________________________________________
___ 3:15 pm BLOOD CULTURE      #1. 

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH. 

IMAGING
===========================
IMPRESSION:  
  
Persistent elevation of the right hemidiaphragm. 
  
Subtle patchy left base opacity could be due to atelectasis, 
pneumonia, and/or 
aspiration depending on the clinical scenario. 

 
Brief Hospital Course:
SUMMARY
=========
This a ___ male patient with a history of CKD5 (Cr of 5.6, 
fistula in place, not currently on HD), afib on warfarin, HFpEF 
w/ severe TR, HTN, T2DM, HLD, and NASH who presents to the ED 
per referral from his cardiologist for hypotension. Of note, 
patient recently had extensive oral surgery in which all of his 
teeth were extracted and dental implants were placed. On initial 
presentation, patient was noted to be hypotensive with SBP in 
the ___ and anemic with Hb 7.1 (two point drop from prior Hb). 
He received boluses with IV fluids and received 1u of pRBCs. 
Initially also febrile to ___, so was started on broad spectrum 
IV antibiotics, with oral source presumed due to recent oral 
surgery. However, no recurrence of fever, blood cultures 
negative, UA and CXR clean, so antibiotics were discontinued. 
Patient started to experience bleeding from oral sites, OMFS 
consulted and placed sutures at bedside. Bleeding was controlled 
with sutures, pressure, and amikar rinses. Anticoagulation (for 
atrial fibrillation) was initially reversed with FFP and Vitamin 
K. After bleeding stopped, patient was bridged to warfarin with 
heparin. However, bleeding recurred, and heparin was 
discontinued. Bleeding was controlled with pressure and amikar 
rinses and patient received another 1 u pRBC transfusion. He 
remained hemodynamically stable during his admission and did not 
have recurrence of bleeding for 24 hours prior to discharge. 

TRANSITIONAL ISSUES
============================
[] HELD: amlodipine and carvedilol
Recommend restarting based on blood pressure and PCP's clinical 
impression. 
[] CONTINUE: augmentin (to finish ___
[] Discharge INR: 1.3
[] Patient is at risk of oral bleeding, particularly once INR 
becomes therapeutic. Recommend monitoring INR and discussing 
anticoagulation with PCP/oral surgeon should bleeding recur. 
[] Patient is ordered for CBC and INR check on ___. 
Please ensure this is followed up on.
[] Patient should continue full liquid diet for 1 week (till 
___ after which he can try a soft food diet as tolerated. 
This can be changed based on discretion of oral surgeon. 

ACUTE ISSUES
===========
# Recent prolonged dental procedure w/post procedural bleeding.
# Acute on chronic anemia
Has a normocytic anemia with mild ___ at baseline. Receives 
ferraheme infusions as outpatient. Given two point drop in 
hemoglobin at presentation, patient received 1u of pRBCs. He 
spiked a fever during this transfusion (blood bank notified, 
patient stable). In addition, worsening bleeding from oral site 
on ___, which was initially treated with pressure at 
bleeding site with TXA soaked gauze and IV Vitamin K, FFP to 
reverse AC. Due to worsening bleeding on ___, H/H downtreneded 
to 5.9/19.5, patient received 2u pRBC/1u FFP/IV vitamin K. OMFS 
came to bedside to place sutures at sites of bleed. Patient 
developed hives during FFP transfusion which resolved following 
Benadryl (patient stable, blood bank notified). Patient started 
to bleed again on ___, likely following resuming 
anticoagulation (heparin to warfarin). Heparin was discontinued 
starting ___, patient received 1u of pRBC, bleeding controlled 
with holding pressure and amikar rinses. H/H stable on ___ 
with no evidence of recurrence of bleeding. Recommend continuing 
full liquid diet for 1 week to allow for healing of oral sites. 

# Concern for dental infection (resolved)
# Hypotension (resolved)
Patient had recent oral surgery without antibiotics 
pre-procedure, but was given Augmentin for 10 day course 
post-procedure. He became febrile the night of admission with 
fevers to 102 and was broadened to vancomycin and unasyn. In 
addition, hypotension at the same time resolved with 1L IVF 
bolus. Lactate remained normal. He was also receiving 1u pRBC 
transfusion at the time of fever. BPs have since stabilized. 
Patient has remained afebrile since admission with BC NGTD > 
48hrs, UA clear. Unasyn was discontinued and patient resumed 
augmentin to finish initial 10 day course (last day ___. 


# Persistent atrial fibrillation on warfarin
The patient has a history of rate controlled chronic atrial 
fibrillation and atypical flutter. While hospitalized recently 
he was found to be in typical atrial flutter and underwent DCCV. 
Initially was in RVR possibly secondary to hypotension or beta 
blocker withdrawal. He was restarted on metoprolol rather than 
carvedilol in the setting of low blood pressure. He has no acute 
indications for bridging with heparin at this time. CHA2DS2-VASc 
___. Recommend continuing home warfarin. Discharge INR 1.3.

CHRONIC ISSUES
==============
# ESRD undergoing renal transplant workup
ESRD is secondary to oxalate nephropathy, hypertension and 
diabetes. Not currently on HD, L. forearm AV fistula mature in 
case needs to be used. He currently has no uremic symptoms and 
electrolytes stable so no urgent needs for HD.

# HFpEF with severe TR and pHTN
Home diuretics initially held; resumed prior to discharge. 

# Type 2 Diabetes
Held home glipizide while in house and maintained on weight 
based insulin regimen.

# Hypertension 
Held amlodipine in the setting of hypotension. Metoprolol 
started in place of carvedilol to avoid vasodilatory effects. 

# Osteomyelitis ___ left great toe status post course of 
IV antibiotics as well as amputation 
R foot appears well healed with no signs of infection.

Name of health care proxy: ___ 
___: wife 
Phone number: ___ 

Code: Full code 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. amLODIPine 5 mg PO DAILY 
2. Atorvastatin 40 mg PO QAM 
3. Calcitriol 0.25 mcg PO 3X/WEEK (___) 
4. CARVedilol 12.5 mg PO BID 
5. Cyanocobalamin 500 mcg PO DAILY 
6. Multivitamins 1 TAB PO DAILY 
7. Pyridoxine 100 mg PO DAILY 
8. Senna 8.6 mg PO BID:PRN Constipation - First Line 
9. sevelamer CARBONATE 800 mg PO TID W/MEALS 
10. Vitamin D 1000 UNIT PO DAILY 
11. alpha lipoic acid ___ mg oral DAILY 
12. Calcium Carbonate 500 mg PO TID W/MEALS 
13. Torsemide 20 mg PO TID 
14. Warfarin 5 mg PO 5X/WEEK (___) 
15. Amoxicillin-Clavulanic Acid ___ mg PO Q12H 
16. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS 
17. GlipiZIDE 2.5 mg PO DAILY 
18. Warfarin 2.5 mg PO 2X/WEEK (___) 

 
Discharge Medications:
1.  Metoprolol Tartrate 6.25 mg PO BID 
RX *metoprolol tartrate 25 mg 0.25 tablet(s) by mouth twice a 
day Disp #*4 Tablet Refills:*0 
2.  Amoxicillin-Clavulanic Acid ___ mg PO/NG Q12H Duration: 3 
Days  
3.  Torsemide 20 mg PO DAILY  
4.  alpha lipoic acid ___ mg oral DAILY  
5.  Atorvastatin 40 mg PO QAM  
6.  Calcitriol 0.25 mcg PO 3X/WEEK (___)  
7.  Calcium Carbonate 500 mg PO TID W/MEALS  
8.  Cyanocobalamin 500 mcg PO DAILY  
9.  GlipiZIDE 2.5 mg PO DAILY  
10.  Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS  
11.  Multivitamins 1 TAB PO DAILY  
12.  Pyridoxine 100 mg PO DAILY  
13.  Senna 8.6 mg PO BID:PRN Constipation - First Line  
14.  sevelamer CARBONATE 800 mg PO TID W/MEALS  
15.  Vitamin D 1000 UNIT PO DAILY  
16.  Warfarin 5 mg PO 5X/WEEK (___)  
17.  Warfarin 2.5 mg PO 2X/WEEK (___)  
18. HELD- amLODIPine 5 mg PO DAILY  This medication was held. Do 
not restart amLODIPine until your PCP tells you to. 
19. HELD- CARVedilol 12.5 mg PO BID  This medication was held. 
Do not restart CARVedilol until your PCP tells you to. 
20.Outpatient Lab Work
LABS: CBC, INR
DATE: ___
ICD 9: ___
FAX TO: ___. ___ ___

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSES
==========================
Recent prolonged dental procedure with post procedural bleeding
Acute on chronic anemia
Hypotension
Persistent atrial fibrillation on warfarin 

CHRONIC ISSUES
=======================
ESRD 
HFpEF with severe TR and pTN
Type II Diabetes Mellitus
Hypertension
Hx of Left great toe amputation

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

It was a pleasure taking care of you at ___!

WHY WAS I IN THE HOSPITAL?
You were in the hospital because your blood pressure was very 
low. You then started bleeding from your mouth requiring close 
monitoring.

WHAT HAPPENED TO ME IN THE HOSPITAL?
- You had a large amount of bleeding from your mouth where some 
of your dental implants were. 
- You were given blood products to support your blood counts.
- You were seen by our oral maxillofacial surgery service, who 
helped us treat the bleeding.
- Your blood counts were closely monitored.

WHAT DO I NEED TO DO ONCE I LEAVE THE HOSPITAL? 
- Please take your medications as prescribed. Please not that 
some of your medications have changed.
- Please go to all of your follow-up doctor's appointments.
- Continue a liquid diet for one week, then switch to soft 
foods.
- You will be discharged with a prescription for labs. Please 
get these labs checked on ___, and they will be faxed to your 
PCP.
- If bleeding recurs, apply pressure with gauze. If this does 
not stop the bleeding, please call your outpatient oral surgeon 
for further guidance or seek medical care at an Emergency Room.

Be well,

Your ___ Care Team
 
Followup Instructions:
___